US07875728B2
Preparation of 4-[(3-fluorophenyl)hydrazono]-5-(3-morpholin-4-yl-propyl)-4H-pyrazol-3-ylamine
A suspension of 5-(3-aminopropyl)-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine, obtained in Example 32, (400 mg, 1.53 mmole) and triethylamine (6 mmole) in 10 mL of DMF was heated to 96° C. To this solution was slowly added a solution of ethylene glycol ditosylate (3 mmole) in 10 mL DMF. The reaction was worked up by the addition of saline and ethyl acetate. The organic phase was separated, dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The crude material was purified by column chromatography and further by preparative TLC. The resulting 34 mg of oil was dissolved in a minimum amount of diethyl ether and then mixed with hexanes to yield 22 mg of the title compound as a yellow powder. MS (m/z, ES+): 333 (M+1, 100%).

reactant | 5-(3-aminopropyl)-4-[(3-fluorophenyl)hydrazono]-4H-pyrazol-3-ylamine | NCCCC=1C(C(=NN1)N)=NNC1=CC(=CC=C1)F | C12H15FN6
reactant | triethylamine | 6 mmole | C(C)N(CC)CC | C6H15N
reactant | ethylene glycol ditosylate | 3 mmole | S(=O)(=O)(C1=CC=C(C)C=C1)OCCOS(=O)(=O)C1=CC=C(C)C=C1 | C16H18O6S2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-[(3-fluorophenyl)hydrazono]-5-(3-morpholin-4-yl-propyl)-4H-pyrazol-3-ylamine | 22 mg | FC=1C=C(C=CC1)NN=C1C(=NN=C1CCCN1CCOCC1)N | C16H21FN6O
